US05783574
2,3,3a,4-tetrahydro-2-(5-methyl-1-triphenylmethyl-1H-imidazol-4-yl)methyl-1H-imidazo[5, 1-c] [1,4]benzoxazin-1-one.
To a stirred solution of 2,3,3a,4-tetrahydro-1H-imidazo [5,1-c][1,4]benzoxazin-1-one (0.89 g; 0.0047 moles) in 20 ml of anhydrous dimethylformamide kept under nitrogen atmosphere, 50% NaH (0.22 g; 0.0047 moles) is added. The solution is stirred for 1 hour at 60° C.; then, at room temperature, 4-chloromethyl-5-methyl-1-triphenylmethyl-1H-imidazole (1.75 g; 0.0047 moles) is added. The mixture is stirred for 6 hours at 70° C., then cooled, poured into water and extracted with methylene chloride.

reactant | 2,3,3a,4-tetrahydro-1H-imidazo [5,1-c][1,4]benzoxazin-1-one | 0.0047 moles, 0.89 g | C1(NCC2COC3=C(N21)C=CC=C3)=O | C10H10N2O2
reactant | NaH | 0.0047 moles, 0.22 g | [H-].[Na+]
reactant | 4-chloromethyl-5-methyl-1-triphenylmethyl-1H-imidazole | 0.0047 moles, 1.75 g | ClCC=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C24H21ClN2
reactant | water | O | H2O
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 2,3,3a,4-tetrahydro-2-(5-methyl-1-triphenylmethyl-1H-imidazol-4-yl)methyl-1H-imidazo[5, 1-c] [1,4]benzoxazin-1-one | CC1=C(N=CN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CN1C(N2C(COC3=C2C=CC=C3)C1)=O | C34H30N4O2
